US05039706
A. 1-(4-Fluorophenyl)-4-(4-methylphenylthio)-1-butanone
The title compound (58.0 g, 100%) was prepared from 4-thiocresol and 4-chloro-4'-fluorobutyrophenone as described in Example 2 as an oil; IR(neat): C=O @ 1700 cm-1 ; NMR(DMSO-d6, TMS): δ 1.8-1.95(m,2H, CH2), 2.26(s,3H,ArCH3), 2.98(t,2H,CH2 --CO), 3.16(t,2H,S--CH2), 7.1-8.1(m,8H, aromatic); mass spectrum m/e 288.

reactant | 4-thiocresol | CC1=CC=C(C=C1)S | C7H8S
reactant | 4-chloro-4'-fluorobutyrophenone | ClCCCC(=O)C1=CC=C(C=C1)F | C10H10ClFO
product | 1-(4-Fluorophenyl)-4-(4-methylphenylthio)-1-butanone | 58.0 g, 100% | FC1=CC=C(C=C1)C(CCCSC1=CC=C(C=C1)C)=O | C17H17FOS
